US06593335B1
2,1,3-benzothiadiazole-5-carboxaldehyde
5-Hydroxymethylbenzo-2, 1,3-thiadiazole (2.6 g, 16 mmol) and manganese dioxide (6.0 g, 64 mmol) in chloroform (150 mL) were stirred at room temperature overnight. The reaction mixture was filtered off and the filtrate was evaporated to provide 1.9 g of the title compound.

reactant | 5-Hydroxymethylbenzo-2, 1,3-thiadiazole | 16 mmol, 2.6 g | OCC1=CC=2C(=NSN2)C=C1 | C7H6N2OS
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 64 mmol, 6.0 g | [O-2].[O-2].[Mn+4]
product | 2,1,3-benzothiadiazole-5-carboxaldehyde | 1.9 g | N=1SN=C2C1C=CC(=C2)C=O | C7H4N2OS
